US07282512B2
To a solution of 100 mg (0.57 mmol) of ethyl (1-benzylcyclobutyl)methanol in 3 mL of tetrahydrofuran was added 0.68 mL (1.31 mmol) of 1.93 M phosgene in toluene in one portion. The reaction was stirred overnight at room temperature. The mixture was concentrated under vacuum. The remaining oil was dissolved in 1 mL tetrahydrofuran and added to a solution of 136 mg (0.516 mmol) of (3S)-3-amino-2-hydroxy-N-[(1R)-1-phenylethyl]heptanamide and 0.079 mL (0.568 mmol) of triethylamine in 5 mL tetrahydrofuran. The reaction was stirred at room temperature for 3 h, diluted with ethyl acetate, and washed with 1M hydrochloric acid. The organic phase was washed with brine, dried over magnesium sulfate, and concentrated under reduced pressure to afford 240 mg (99%) of (1-benzylcyclobutyl)methyl(1S)-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)pentylcarbamate. 1H NMR (300 MHz, DMSO-d6) δ 8.07 (d, J=9 Hz, 1H), 7.17-7.36 (m, 10H), 6.57 (d, J=9 Hz, 1H), 5.57 (d, J=6 Hz, 1H), 4.90-5.02 (m, 1H), 3.89-3.94 (m, 1H), 3.75-3.84 (m, 3H), 2.77 (s, 2H), 1.70-1.93 (m, 6H), 1.25-1.53 (m, 9H), 0.88 (t, J=7 Hz, 3H). ES-LCMS m/z 489 (M+Na).

reactant | ethyl (1-benzylcyclobutyl)methanol | 0.57 mmol, 100 mg | C(C)C(O)C1(CCC1)CC1=CC=CC=C1 | C14H20O
reactant | phosgene | 1.31 mmol, 1.93 M, 0.68 mL | C(=O)(Cl)Cl | CCl2O
reactant | (3S)-3-amino-2-hydroxy-N-[(1R)-1-phenylethyl]heptanamide | 0.516 mmol, 136 mg | N[C@H](C(C(=O)N[C@H](C)C1=CC=CC=C1)O)CCCC | C15H24N2O2
reactant | TEA | 0.568 mmol, 0.079 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (1-benzylcyclobutyl)methyl(1S)-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)pentylcarbamate | 240 mg, 99% | OC(C(N[C@H](C)C1=CC=CC=C1)=O)[C@H](CCCC)NC(OCC1(CCC1)CC1=CC=CC=C1)=O | C28H38N2O4
